US08278457B2
A solution of cis-3-azido-4-(4-bromophenoxy)tetrahydrofuran (286.7 g, 1.01 mol) in tetrahydrofuran (1.25 L) was cooled to 0° C. and treated with triphenylphosphine (278 g, 1.06 mol). The reaction was allowed to warm to room temperature and stirred for 18 hours. Water (53 mL) was added and the reaction was stirred at room temperature for 66 hours. Solvent was removed under reduced pressure and the residue was mixed with diethyl ether. The supernatant was decanted and concentrated in vacuo, providing a residue, which was filtered through a short plug of silica gel (Gradient: 0% to 5% methanol in methylene chloride) to afford cis-4-(4-bromophenoxy)tetrahydrofuran-3-amine (155 g) and 366 grams of impure product. An acid/base extraction was carried out on the impure material, providing additional product (48.5 g). Total yield: 203.5 g, 0.788 mol, 68% over four steps. 1H NMR (300 MHz, CDCl3) δ 3.6 (m, 1H), 3.7 (m, 1H), 3.9 (m, 1H), 4.0 (m, 1H), 4.1 (m, 1H), 4.6 (m, 1H), 6.8 (m, 2H), 7.3 (m, 2H).

reactant | cis-3-azido-4-(4-bromophenoxy)tetrahydrofuran | 1.01 mol, 286.7 g | N(=[N+]=[N-])[C@@H]1COC[C@@H]1OC1=CC=C(C=C1)Br | C10H10BrN3O2
reactant | triphenylphosphine | 1.06 mol, 278 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | 53 mL | O | H2O
solvent | tetrahydrofuran | 1.25 L | O1CCCC1 | C4H8O
product | cis-4-(4-bromophenoxy)tetrahydrofuran-3-amine | 155 g | BrC1=CC=C(O[C@@H]2[C@@H](COC2)N)C=C1 | C10H12BrNO2
